US08106047B2
T3. [3-(4-Methoxy-phenyl)-[1,2,4]triazolo[3,4-a]phthalazin-6-yl]-[3-(2H-tetrazol-5-yl)-phenyl]-amine
To a suspension of 3-[3-(4-methoxyphenyl)-[1,2,4]triazolo[3,4-a]phthalazin-6-ylamino]-benzonitrile (compound T1) (5.0 g, 12.7 mmol) in N-methylpyrrolidinone (80 mL) are added sodium azide (2.90 g, 44.6 mmol) and triethyl amine hydrochloride (6.14 g, 44.6 mmol). The mixture is stirred at 100° C. for 2 days. Upon cooling, water (400 mL) is added to the reaction mixture and the resulting precipitate is filtered. The solid is washed successively with MeOH, AcOEt, a saturated solution of NH4Cl and water. The residue is dried azeotropically with toluene to yield 2.97 g (54%) of the title compound as light brown solid.

reactant | 3-[3-(4-methoxyphenyl)-[1,2,4]triazolo[3,4-a]phthalazin-6-ylamino]-benzonitrile | 12.7 mmol, 5.0 g | COC1=CC=C(C=C1)C1=NN=C2N1N=C(C1=CC=CC=C21)NC=2C=C(C#N)C=CC2 | C23H16N6O
reactant | sodium azide | 44.6 mmol, 2.90 g | [N-]=[N+]=[N-].[Na+]
reactant | triethyl amine hydrochloride | 44.6 mmol, 6.14 g | Cl.C(C)N(CC)CC
reactant | water | 400 mL | O | H2O
solvent | N-methylpyrrolidinone | 80 mL | CN1C(CCC1)=O | C5H9NO
product | [3-(4-Methoxy-phenyl)-[1,2,4]triazolo[3,4-a]phthalazin-6-yl]-[3-(2H-tetrazol-5-yl)-phenyl]-amine | 2.97 g, 54% | COC1=CC=C(C=C1)C1=NN=C2N1N=C(C1=CC=CC=C21)NC2=CC(=CC=C2)C=2N=NNN2 | C23H17N9O
